US04107307
3-[(2,5-Dimethyl-4-imidazolyl)methylene]carbazic acid ethyl ester
A 6.2 gm. portion of 2,5-dimethyl-4-imidazolecarboxaldehyde and 6.24 gm. of ethyl carbazate are reacted as described in Example 32 giving the desired product, m.p. 207.5° - 210° C. (resolidifies 248°-252° C.).

reactant | 2,5-dimethyl-4-imidazolecarboxaldehyde | CC=1NC(=C(N1)C=O)C | C6H8N2O
reactant | ethyl carbazate | C(NN)(=O)OCC | C3H8N2O2
product | 3-[(2,5-Dimethyl-4-imidazolyl)methylene]carbazic acid ethyl ester | C(C)OC(NN=CC=1N=C(NC1C)C)=O | C9H14N4O2
